US08648066B2
To a solution of 4-[4-(2-methylquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-2-nitroaniline (380 mg, 0.89 mmol) in THF (12 mL) was added palladium on carbon (wet, 100 mg). The resulting suspension was subjected to an atmosphere of hydrogen at 40 psi for 5 h. The catalyst was removed by filtration through celite, and the filtrate was concentrated to provide 4-[4-(2-methylquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]benzene-1,2-diamine (333 mg, 0.84 mmol, 94% yield) as a yellow-orange solid. MS (EI) for C24H23N5O: 398 (MH+).

reactant | 4-[4-(2-methylquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-2-nitroaniline | 0.89 mmol, 380 mg | CC1=NC2=CC=CC=C2C(=N1)N1CCOC2=C(C1)C=C(C=C2)C2=CC(=C(N)C=C2)[N+](=O)[O-] | C24H21N5O3
reactant | hydrogen | [H][H] | H2
solvent | THF | 12 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 4-[4-(2-methylquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]benzene-1,2-diamine | 0.84 mmol, 333 mg, 94% yield | CC1=NC2=CC=CC=C2C(=N1)N1CCOC2=C(C1)C=C(C=C2)C=2C=C(C(=CC2)N)N | C24H23N5O
